US08314240B2
460 mg of methyl 4-({2-[(2-hydroxypropyl)(pyridin-2-ylsulfonyl)amino]-4,5-dimethylphenoxy}methyl)benzoate was dissolved in 4.00 mL of dichloromethane, and 161 mg of diethylaminosulfur trifluoride was added dropwise thereto under ice-cooling, followed by stirring under ice-cooling for 30 minutes. To the reaction liquid was added water, followed by extraction with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1 to 1:1) to obtain 109 mg of methyl 4-({2-[(2-fluoropropyl)(pyridin-2-ylsulfonyl)amino]-4,5-dimethylphenoxy}methyl)benzoate.

reactant | methyl 4-({2-[(2-hydroxypropyl)(pyridin-2-ylsulfonyl)amino]-4,5-dimethylphenoxy}methyl)benzoate | 460 mg | OC(CN(C1=C(OCC2=CC=C(C(=O)OC)C=C2)C=C(C(=C1)C)C)S(=O)(=O)C1=NC=CC=C1)C | C25H28N2O6S
reactant | diethylaminosulfur trifluoride | 161 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
solvent | dichloromethane | 4.00 mL | ClCCl | CH2Cl2
product | methyl 4-({2-[(2-fluoropropyl)(pyridin-2-ylsulfonyl)amino]-4,5-dimethylphenoxy}methyl)benzoate | 109 mg | FC(CN(C1=C(OCC2=CC=C(C(=O)OC)C=C2)C=C(C(=C1)C)C)S(=O)(=O)C1=NC=CC=C1)C | C25H27FN2O5S
